US07629383B2
Bis[[(2,2-dimethylpropanoyl)oxy]methyl]nonanedioate (Compound I)
Caesium carbonate (32.6 g; 0.120 mol) was added to a stirred solution of nonanedioic acid (9.4 g; 50.0 mmol), chloromethyl pivalate (15.1 g; 0.10 mmol), and NaI (0,5 g; 3.3 mmol) in dry N,N-dimethylformamide (50 mL). The mixture was stirred for 2 days at ca. 40° C. (bath temperature) under argon. Excess solvent was evaporated off at ca. 35° C. (bath temperature) and 5 to 1 mm Hg. The residue was dissolved in water (50 mL) and diethyl ether (25 mL). The aqueous portion was extracted with ether (1×15 mL) and the combined ether solutions were washed with saturated NaCl solution (1×10 mL) and dried (Na2SO4). Filtration and evaporation left 12.34 g (59%) after pumping out to 0.2 mm Hg. 1H NMR (200 MHz; CDCl3): δ 1.20 (20H, s), 1.32 (4H, s), 1.63 (4H, m), 2.35 (4H, t, J=7.4 Hz), 5.76 (4H, d, J=2.8 Hz). 13C NMR (50 MHz; CDCl3): δ 24.58, 26.84, 28.80, 29.01, 33.92, 38.73, 79.22, 164.87, 172.29, MS(ES):439.3 [M+Na]+.

reactant | Caesium carbonate | 0.120 mol, 32.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | nonanedioic acid | 50.0 mmol, 9.4 g | C(CCCCCCCC(=O)O)(=O)O | C9H16O4
reactant | chloromethyl pivalate | 0.10 mmol, 15.1 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | NaI | 3.3 mmol, 0,5 g | [Na+].[I-]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | Bis[[(2,2-dimethylpropanoyl)oxy]methyl]nonanedioate | CC(C(=O)OCOC(CCCCCCCC(=O)OCOC(C(C)(C)C)=O)=O)(C)C | C21H36O8
